US08530503B2
4-(5-(3,4-diethoxyphenyl)-4H-1,2,4-triazol-3-yl)pyridine
Cold 4M HCl in dioxane (31.5 mmol, 8.87 mL) was added to a stirred solution of 3,4-diethoxybenzonitrile (7.84 mmol, 1.5 g) in anhydrous MeOH (23.53 mmol, 954 μl) and anhydrous ether (4 mL). The reaction was stirred at 0° C. for 1 h and then placed in the refrigerator (0-5° C.) for 48 h. The mixture was bubbled with N2 to eliminate HCl and concentrated under reduced pressure. To the crude was added anhydrous ether and the methyl 3,4-diethoxybenzimidate salt precipitated as pale orange solid in 63% yield (1.3 g). The product was used without further purification. To a stirred solution of the imidine (0.5 mmol, 130 mg) (freshly liberated from the imidate salt using a solution 1M of Na2CO3 and extracted with ether) in acetonitrile was added pyridine-4-carbohydrazide (0.55 mmol, 75.5 mg) and the reaction was refluxed for 2 h. The mixture was concentrated under reduced pressure and the crude was heated at 180° C. for 2 h. The product was purified by column chromatography using CH2Cl2:MeOH (9:1) to offer the product as a white solid in 65% yield (100 mg, 0.32 mmol). 1H NMR (400 MHz, CDCl3): δ8.71 (bs, 2H), 8.11 (d, J=5.2 Hz, 2H), 7.60 (s, 1H), 7.57 (d, J=8.4 Hz, 1H), 6.90 (d, J=8.4, 1H), 4.11 (q, J=6.8 Hz, 2H), 4.07 (q, J=6.8 Hz, 2H), 1.45 (t, J=7.0 Hz, 3H), 1.40 (t, J=7.0 Hz, 3H); 13C NMR (100 MHz, CDCl3): δ 157.73, 150.89, 149.42, 149.14, 139.66, 121.29, 120.56, 120.06, 119.68, 113.00, 111.53, 64.82, 64.72, 14.90, 14.86. MS (EI) m/z: 311 (M+), HRMS (EI) for C17H18N4O2 (M+): calcd 311.1502. found 311.1506.

reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 31.5 mmol, 8.87 mL | O1CCOCC1 | C4H8O2
reactant | 3,4-diethoxybenzonitrile | 7.84 mmol, 1.5 g | C(C)OC=1C=C(C#N)C=CC1OCC | C11H13NO2
reactant | MeOH | 23.53 mmol, 954 μl | CO | CH4O
reactant | Na2CO3 | 1M | C(=O)([O-])[O-].[Na+].[Na+]
reactant | pyridine-4-carbohydrazide | 0.55 mmol, 75.5 mg | N1=CC=C(C=C1)C(=O)NN | C6H7N3O
solvent | ether | 4 mL | CCOCC | C4H10O
product | 4-(5-(3,4-diethoxyphenyl)-4H-1,2,4-triazol-3-yl)pyridine | 63% yield | C(C)OC=1C=C(C=CC1OCC)C=1NC(=NN1)C1=CC=NC=C1 | C17H18N4O2
